US08871756B2
4-(4-Chloro-6-methylquinolin-2-yl)-1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one
The mixture of 2,4-dichloro-6-methyl-quinoline (422 mg, 2 mmol), 1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one (298 mg, 2 mmol) and n-butyl alcohol (15 mL) was heated with stirring in a 20 mL microwave process vial for 3 hours at 160° C. under microwave irradiation. After cooling, the solvent was removed in vacuo and the residue was purified by column chromatography on silica gel (methanol/dichloromethane, 1:20) to give the product. MS obsd. (ESI+) [(M+H)+] 338.

reactant | 2,4-dichloro-6-methyl-quinoline | 2 mmol, 422 mg | ClC1=NC2=CC=C(C=C2C(=C1)Cl)C | C10H7Cl2N
reactant | 1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one | 2 mmol, 298 mg | N1C(CNCC2=C1C=CC=C2)=O | C9H10N2O
solvent | n-butyl alcohol | 15 mL | C(CCC)O | C4H10O
product | 4-(4-Chloro-6-methylquinolin-2-yl)-1,3,4,5-tetrahydro-2H-1,4-benzodiazepin-2-one | ClC1=CC(=NC2=CC=C(C=C12)C)N1CC(NC2=C(C1)C=CC=C2)=O | C19H16ClN3O
